US04329470
A mixture of 4.1 g (14.2 mmole) of ethyl 3-acetyl-5-(bromomethyl)-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate, 3.0 g (14.2 mmole) of 4-(4-chlorophenyl)-4-hydroxypiperidine, 2.0 g (14.2 mmole) of potassium carbonate and 75 ml of ethanol is stirred under argon for 16 hours at 25° C. Water (100 ml) is added and the precipitate which forms is collected and washed with water. It is then suspended in 2-propanol and 1 equivalent of hydrogen chloride in 2-propanol is added. The resulting solid is separated and recrystallized twice from a mixture of 2-propanol and water to give ethyl 5-[[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]methyl]-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate hydrochloride.

reactant | ethyl 3-acetyl-5-(bromomethyl)-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate | 14.2 mmole, 4.1 g | C(C)(=O)N1C(NC(=C1C(=O)OCC)CBr)=O | C9H11BrN2O4
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 14.2 mmole, 3.0 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | 14.2 mmole, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | Water | 100 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | ethyl 5-[[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]methyl]-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)CC1=C(NC(N1)=O)C(=O)OCC)O | InChI=1S/C18H22ClN3O4.ClH/c1-2-26-16(23)15-14(20-17(24)21-15)11-22-9-7-18(25,8-10-22)12-3-5-13(19)6-4-12;/h3-6,25H,2,7-11H2,1H3,(H2,20,21,24);1H
